datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=C[C:71]2=[C:72](C=C1)[NH:62][N:61]=[N:10]2.CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([N+:10]2=[N:61][NH:62][C:72]3=[C:71]2C=CC=C3)[C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)=[CH:22]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C12CCCC2.COCC[NH:10]CCOC>>COCC[NH+:10](CCOC)[CH:20]([CH:21]=[CH:22][N:23]1C(CC2=CC=CC=C2)C(=O)N(C)C12CCCC2)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10=20;20,21=21,22;22,23=23"
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](Br)[C:24](=[O:25])[C:33](Br)=[CH:32]2)[CH:46]=[CH:45]1.C[N:14](C)[C:13]1=[CH:12][CH:11]=[N:10][CH:61]=[CH:62]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([N:10]2[CH:11]=[CH:12][C:13](=[N+:14](C)C)[CH:62]=[CH:61]2)[C:21]2=[CH:22][C:23](Br)=[C:24]([O-:25])[C:33](Br)=[CH:32]2)[CH:46]=[CH:45]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23,24;24,25=25"
"C/[CH:10]=[CH:11]/C.CSC[C:20](C)=[O:21]>>CSC[C:20](C)([CH:10](C)[CH+:11]C)[O-:21] 10,11=10,20;20,21=21"
"CC[O:61]/[C:11](=[C:10](/[C:72](=[O:73])[O:83]CC)[C:92](=[O:93])[O:103]CC)[O-:12].[CH2:20]=[CH:21][C:22]#[N:23]>>CC[O:61][C:11]([C:10]([CH2:20][CH:21]=[C:22]=[N-:23])([C:72](=[O:73])[O:83]CC)[C:92](=[O:93])[O:103]CC)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)([CH:10](C)C2=CC=CC=C2)[O:12]1.C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C2=CC=CC=C21>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)=[O+:12]1.C[CH:10](C1=CC=CC=C1)[CH:20]([C:21]1=[CH:22][N:23](C)C2=CC=CC=C21)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"COC1=CC=C([CH:20]=[C:21]([C:22]#[N:23])[C:32]#[N:33])C=C1.C[CH:10]=[C:11](C)C>>COC1=CC=C([CH:20]([CH:10](C)[C+:11](C)C)[C:21](=[C:22]=[N-:23])[C:32]#[N:33])C=C1 10,11=10,20;20,21=21,22;22,23=23"
"CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)([CH:10]2CC2)[O:12]1.[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5C[CH:20]1C2C3C54>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)=[O+:12]1.[O+]#C[Fe-3:21]123(C#[O+])(C#[O+])C4C[CH:20]([CH:10]5CC5)C1C2C43 10,11=10,20;12=11,12;20,21=21"
"C/[CH:10]=[CH:11]/C.C[N+:21](C)=[CH2:20]>>C[CH:10]([CH+:11]C)[CH2:20][N:21](C)C 10,11=10,20;20,21=21"
"C[C:11]1=[CH:10][CH:71]=[CH:72][C:63](C)=[CH:62]1.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>C[C+:11]1[CH:10]([CH:20]([C:31]2=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[CH:71]=[CH:72][C:63](C)=[CH:62]1 10,11=10,20"
"CC1(C)[O:82][C:71](=[O:72])[C:10](=[I:11]C2=CC=CC=C2)[C:91](=[O:92])[O:102]1.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([C:10]2([I+:11]C3=CC=CC=C3)[C:71](=[O:72])[O:82]C(C)(C)[O:102][C:91]2=[O:92])[C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20"
"C[C:13]1=[CH:12][CH:11]=[CH:10][CH:61]=[CH:62]1.Cl[C:32]1=[N+:21]([F:20])[C:42](Cl)=[CH:43][CH:34]=[CH:33]1>>C[C+:13]1[CH:12]=[CH:11][CH:10]([F:20])[CH:61]=[CH:62]1.Cl[C:32]1=[N:21][C:42](Cl)=[CH:43][CH:34]=[CH:33]1 10,11=10,20;12,13=11,12;20,21=21"
"C1C[CH:20]=[CH:21][C:22](=[O:23])C1.CC[O:72][P:61]([CH:10]=[C:11]([O-:12])[O:93]CC)(=[O:62])[O:82]CC>>CC[O:72][P:61]([CH:10]([C:11](=[O:12])[O:93]CC)[CH:20]1CCC[C:22]([O-:23])=[CH:21]1)(=[O:62])[O:82]CC 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
Cl[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1.[N-:10]1[C:61](=[O:62])[NH:84][C:73](=[O:74])[CH:72]=[CH:71]1>>Cl[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C:20]([N:10]2[C:61](=[O:62])[NH:84][C:73](=[O:74])[CH:72]=[CH:71]2)([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1 10=20
"CC[O:72][C:61]([CH-:10][P:81](=[O:82])([O:92]CC)[O:102]CC)=[O:62].COC1=CC2=C(C=C1)[N+:23](C)=[CH:22][C:21]2=[CH:20][C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=C(OC)C=C2>>CC[O:72][C:61]([CH:10]([CH:20]([C:21]1=[CH:22][N:23](C)C2=C1C=C(OC)C=C2)[C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=C(OC)C=C2)[P:81](=[O:82])([O:92]CC)[O:102]CC)=[O:62] 10=20;20,21=21,22;22,23=23"
"CO[C:73]1=[CH:72][C:61]2=[C:62]([NH:12][CH:11]=[CH:10]2)[CH:63]=[CH:64]1.O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]12>>CO[C:73]1=[CH:72][C:61]2=[C:62]([NH+:12]=[CH:11][CH:10]2[CH:20]2[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[C:33]([N+](=O)[O-])[C:34]3=[N:35]O[N+:42]([O-])=[C:41]23)[CH:63]=[CH:64]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
